US06455528B1
Synthesis of N-(2-Amino-4-((4-phenylpiperazin-1-yl)methyl)phenylmethyl)acetamide
To a solution of N-(2-nitro-4-((4-phenylpiperazin-1-yl)methyl)phenylmethyl)acetamide (0.5 g) and water-containing Raney-nickel (0.5 g) in ethanol (8 ml) was added dropwise hydrazine monohydrate (0.7 ml) and the mixture was refluxed under heating at room temperature for 1 hr. Raney-nickel was removed by passing the mixture through Celite and the solvent was evaporated to give a white solid (0.48 g). The obtained white solid was crystallized from hexane/ethyl acetate (1:1, 100 ml) to give the title compound (45.5 g) as white crystals, m.p.=148-149° C.

reactant | N-(2-nitro-4-((4-phenylpiperazin-1-yl)methyl)phenylmethyl)acetamide | 0.5 g | [N+](=O)([O-])C1=C(C=CC(=C1)CN1CCN(CC1)C1=CC=CC=C1)CNC(C)=O | C20H24N4O3
reactant | water | O | H2O
reactant | hydrazine monohydrate | 0.7 ml | O.NN
solvent | ethanol | 8 ml | C(C)O | C2H6O
catalyst | Raney-nickel | 0.5 g | [Ni] | Ni
product | N-(2-Amino-4-((4-phenylpiperazin-1-yl)methyl)phenylmethyl)acetamide | 0.48 g | NC1=C(C=CC(=C1)CN1CCN(CC1)C1=CC=CC=C1)CNC(C)=O | C20H26N4O
